datasets/10k_Mayr_OG.csv
SMILES Labelled
"CN(C)C1=CC=C([CH:20]=[C:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])C=C1.C[N:62]1CCC[N:12]2CCC[N:10]=[C:11]21>>CN(C)C1=CC=C([CH:20]([N:10]2CCC[N+:12]3=[C:11]2[N:62](C)CCC3)[C-:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])C=C1 10,11=10,20;12=11,12;20,21=21"
"CC1(C)[O:33][C:31](=[O:32])[C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:22](=[O:23])[O:39]1.C[C-:10]([C:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]1>>CC1(C)[O:33][C:31](=[O:32])[C:21]([CH:20]([C:10](C)([C:61]#[N:62])[C:71]2=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[C:22]([O-:23])[O:39]1 10=20;20,21=21,22;22,23=23"
"COC1=CC=C(/[CH:10]=[C:11](/[N:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)C=C1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[O+:21]C)[CH:35]=[CH:36]1>>COC1=CC=C([CH:10]([C:11](=[N+:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[CH:20]([O:21]C)[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:36]=[CH:35]2)C=C1 10,11=10,20;12=11,12;20,21=21"
"C[N:12]([C:11]1=[CH:10]CCC1)[C:63]1=[CH:64][CH:65]=[CH:66][CH:75]=[CH:74]1.Cl[C:21]1=[CH:20][C:32](=[O:33])[C:31](Cl)=[CH:30][C:22]1=[O:23]>>C[N+:12](=[C:11]1CCC[CH:10]1[CH:20]1[C:21](Cl)=[C:22]([O-:23])[CH:30]=[C:31](Cl)[C:32]1=[O:33])[C:63]1=[CH:64][CH:65]=[CH:66][CH:75]=[CH:74]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]2[S:32](=[O:33])(=[O:34])CCC[S:41]2(=[O:42])=[O:43])[CH:55]=[CH:56]1.C[C-:10]([C:61]#[N:62])[C:71]1=[CH:72][CH:73]=[CH:74][CH:85]=[CH:84]1>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([C:10](C)([C:61]#[N:62])[C:71]2=[CH:72][CH:73]=[CH:74][CH:85]=[CH:84]2)[C-:21]2[S:32](=[O:33])(=[O:34])CCC[S:41]2(=[O:42])=[O:43])[CH:55]=[CH:56]1 10=20;20,21=21"
"CC[O:72][C:61]([C:10]1=[C:11]([O-:12])CCCCC1)=[O:62].CN(C)[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21]2/C3=CC=CC=C3[N+:23](C)=[CH:22]2)[CH:36]=[CH:35]1>>CC[O:72][C:61]([C:10]1([CH:20]([C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[C:31]2=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]2)CCCCC[C:11]1=[O:12])=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1(C)[O:33][C:31](=[O:32])[C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:22](=[O:23])[O:39]1.[O+]#C[Mo-3:11]1234(C#[O+])([P+](C5CCCCC5)(C5CCCCC5)C5CCCCC5)([H:10])C5C1C2C3C54>>CC1(C)[O:33][C:31](=[O:32])[C:21]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[C:22]([O-:23])[O:39]1.[O+]#C[Mo-2:11]1234(C#[O+])([P+](C5CCCCC5)(C5CCCCC5)C5CCCCC5)C5C1C2C3C54 10,11=10,20;20,21=21,22;22,23=23"
"C[Si:63](C)(C)[CH:62]1C2=C(C=CC=C2)[CH:10]=[CH:11]1.[C+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1>>C[Si:63](C)(C)[CH:62]1C2=C(C=CC=C2)[CH:10]([C:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH+:11]1 10,11=10,20"
"CO[C:32]1=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]=[N:21]1.[H][C:11]1([H:10])[CH:12]=[CH:13][N:14](C2=CC=CC=C2)[CH:63]=[C:62]1C(N)=O>>CO[C:32]1=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]([H:10])[N-:21]1.[H][C:11]1=[CH:12][CH:13]=[N+:14](C2=CC=CC=C2)[CH:63]=[C:62]1C(N)=O 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"CCCCCC[SiH2:11][H:10].CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1>>CCCCCC[SiH2+:11].CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:21]2=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1 10,11=10,20;20,21=21,22;22,23=23"
"FC(F)(F)[S:20][N:21]([S:32](C1=CC=CC=C1)(=[O:33])=[O:34])[S:42](C1=CC=CC=C1)(=[O:43])=[O:44].[C:10](=[C:11]=[N-:12])([C:61]#[N:62])[C:73]1=[CH:74][CH:75]=[CH:76][CH:84]=[CH:85]1>>C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.FC(F)(F)[S:20][C:10]([C:11]#[N:12])([C:61]#[N:62])[C:73]1=[CH:74][CH:75]=[CH:76][CH:84]=[CH:85]1 10,11=10,20;12=11,12;20,21=21"
"CC[O:92][C:61]([CH-:10]/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[C:76](Cl)[CH:85]=[CH:84]1)=[O:62].C[CH:20]1C[Fe-2:21]12345(C#[O+])(C#[O+])C1C2C3C4C15>>CC[O:92][C:61]([CH:10]([CH:20](C)C[Fe-3:21]1234(C#[O+])(C#[O+])C5C1C2C3C54)/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[C:76](Cl)[CH:85]=[CH:84]1)=[O:62] 10=20;20,21=21"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].C[N:12]1[C:11]([B-:82](F)(F)F)=[CH:10][C:62]2=[C:61]1[CH:66]=[CH:65][CH:64]=[CH:63]2>>CC[O:34][C:32]([C:21]([CH:20]([CH:10]1[C:11]([B-:82](F)(F)F)=[N+:12](C)[C:61]2=[C:62]1[CH:63]=[CH:64][CH:65]=[CH:66]2)[C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
